US07368578B2
To a solution of 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole (2.57 g) in methanol (30 mL) was added concentrated hydrochloric acid (1.33 mL) at room temperature, and the mixture was stirred at 50° C. for 1 hr. The reaction mixture was evaporated under reduced pressure, and the residue was washed with diethyl ether to give 4-[(E)-2-(2-ethyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride (2.00 g, yield 90%) as orange crystals. melting point: 157-159° C.

reactant | 2-ethyl-4-{(E)-2-[3-(methoxymethoxy)-1-phenyl-1H-pyrazol-4-yl]ethenyl}-1,3-oxazole | 2.57 g | C(C)C=1OC=C(N1)\C=C\C=1C(=NN(C1)C1=CC=CC=C1)OCOC | C18H19N3O3
reactant | hydrochloric acid | 1.33 mL | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 4-[(E)-2-(2-ethyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride | 2.00 g, yield 90% | Cl.C(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O | InChI=1S/C16H15N3O2.ClH/c1-2-15-17-13(11-21-15)9-8-12-10-19(18-16(12)20)14-6-4-3-5-7-14;/h3-11H,2H2,1H3,(H,18,20);1H/b9-8+;
